US06987116B2
A mixture of 2-iodo-7-[(3,4,5-trimethoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile (500 mg, 1.07 mmol), 4-formylphenylboronic acid (240.7 mg, 1.61 mmol), tetrakis(triphenylphosphine)palladium(0) (61.8 mg, 0.054 mmol) in 16 mL of saturated aqueous sodium bicarbonate and 20 mL of ethylene glycol dimethyl ether is heated at reflux for 3 h. After cooling, the mixture is treated with water. The precipitate is filtered, washed with water, ethyl acetate, and ether, then dried in vacuo to provide 447.2 mg of 2-(4-formylphenyl)-7-[(3,4,5-trimethoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile as a yellow solid, mp 268-270° C.; 1H NMR (DMSO-d6) δ 3.73 (s, 3H), 3.75 (s, 6H), 6.69 (s, 2H), 7.94 (d, J=8 Hz, 2H), 8.00 (d, J=8 Hz, 2H), 8.10 (s, 1H), 8.64 (s, 1H), 9.64 (s, 1H), 10.00 (s, 1H); HRMS 446.11691 (M+H)+.

reactant | 2-iodo-7-[(3,4,5-trimethoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 1.07 mmol, 500 mg | IC1=CC2=NC=C(C(=C2S1)NC1=CC(=C(C(=C1)OC)OC)OC)C#N | C17H14IN3O3S
reactant | 4-formylphenylboronic acid | 1.61 mmol, 240.7 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | water | O | H2O
solvent | sodium bicarbonate | 16 mL | C([O-])(O)=O.[Na+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.054 mmol, 61.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-formylphenyl)-7-[(3,4,5-trimethoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 447.2 mg | C(=O)C1=CC=C(C=C1)C1=CC2=NC=C(C(=C2S1)NC1=CC(=C(C(=C1)OC)OC)OC)C#N | C24H19N3O4S
